US04994569
(4RS, 5RS)-2,4-diphenyl-5,6-dihydro-4H, 1,3-thiazin-5-ol may be prepared in the following manner: a solution of ethyl azodicarboxylate (1.1 g) dissolved in anhydrous tetrahydrofuran (5 cc) is added dropwise at a temperature in the region of 0° C. to a solution, maintained under an argon atmosphere, of N-[(1RS, 2RS)-2,3-dihydroxy-1-phenylpropyl]thiobenzamide (1.7 g) and triphenylphosphine (1.57 g) in anhydrous tetrahydrofuran (17 cc). The solution obtained is stirred at a temperature in the region of 20° C. for 16 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is purified by chromatography on silica (0.063-0.2 mm; 100 g) contained in a column 2.5 cm in diameter [(eluent: cyclohexane/ethyl acetate (3:7 by volume)], collecting 20-cc fractions. Fractions 5 to 11 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in diisopropyl ether, (4RS, 5RS)-2,4-diphenyl-5,6-dihydro-4H-1,3-thiazin-5-ol (0.86 g), m.p. 142° C. is obtained.

reactant | 1,3-thiazin-5-ol | S1CN=CC(=C1)O | C4H5NOS
reactant | ethyl azodicarboxylate | 1.1 g | N(=NC(=O)[O-])C(=O)OCC
reactant | N-[(1RS, 2RS)-2,3-dihydroxy-1-phenylpropyl]thiobenzamide | 1.7 g | OC(C(C1=CC=CC=C1)NC(C1=CC=CC=C1)=S)CO | C16H17NO2S
reactant | triphenylphosphine | 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17 cc | O1CCCC1 | C4H8O
product | (4RS, 5RS)-2,4-diphenyl-5,6-dihydro-4H-1,3-thiazin-5-ol | 0.86 g | C1(=CC=CC=C1)C=1SCC(C(N1)C1=CC=CC=C1)O | C16H15NOS
